US05665733
N,2-Dimethyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanamide.
A stream of gaseous methylamine is passed into a 250 ml round-bottomed flask containing a solution of 1.25 g (3.85 mmol) of methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate in 20 ml of dichloromethane and 80 ml of methanol until saturation and the mixture is left stirring at room temperature for 3 days. The solvents are evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel, elution being carried out with a mixture of dichloromethane and ethyl acetate ranging from 100/0 to 80/20 and then with a 95/5 mixture of dichloromethane and methanol. After recrystallizing from acetonitrile, 0.85 g (2.65 mmol) of white crystalline solid is obtained. Melting point: 185°-186° C.

reactant | methylamine | CN | CH5N
reactant | methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate | 3.85 mmol, 1.25 g | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)CCC(=O)OC)=O | C20H19NO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 80 ml | CO | CH4O
product | N,2-Dimethyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanamide | 2.65 mmol, 0.85 g | CNC(CCC1=C(N(C(C2=CC=CC=C12)=O)C)C1=CC=CC=C1)=O | C20H20N2O2
